US06376409B1
3,5-Bis-trimethylsilyl-bromobenzene
17.18 g of 3,5-Dibromo-trimethylsilyl-benzene, 55.8 mmol, was dissolved in 380 ml Et2O. The solution was chilled to −68° C., and 22.3 mL of n-BuLi (2.5 M in hexanes), 55.8 mmol, were added within 18 minutes. The solution changed its color from clear to yellow, and was stirred for 45 minutes at −68° C. 7.5 mL TMSCl, 59 mmol, were added within six minutes. The temperature of solution rose within one hour to −33° C., and after another 30 minutes to −18° C. The solution was stirred overnight at room temperature. 60 mL of 2M HCl were added to the white suspension. Stirring for 30 minutes resulted in two clear phases. Et2O—phase was dried with MgSO4, filtered, and solvent evaporated. Raw product was distilled at a temperature of 70-76° C. and 0.1-0.2 mbar. All pure fractions were combined and gave 15.8 g of product (52.4 mmol, 94%). 1H-NMR (CHCl3=7.24 ppm): δ 7.56 (s, 2H), 7.50 (t, 1H), 0.25 (s, 6×3H).

reactant | 3,5-Dibromo-trimethylsilyl-benzene | 17.18 g | BrC=1C=C(C=C(C1)Br)[Si](C)(C)C | C9H12Br2Si
reactant | n-BuLi | 2.5 M, 22.3 mL | [Li]CCCC
reactant | TMSCl | 7.5 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | HCl | 2M, 60 mL | Cl | ClH
solvent | Et2O | 380 ml | CCOCC | C4H10O
product | 3,5-Bis-trimethylsilyl-bromobenzene | 52.4 mmol, 15.8 g, 94% | C[Si](C=1C=C(C=C(C1)[Si](C)(C)C)Br)(C)C | C12H21BrSi2
